US06479424B1
2,5-Dichloro-2,5-dimethylhexane
A 2 L three neck round bottom flask fit with an overhead stirrer, thermometer, and nitrogen inlet was charged with 1.2 L concentrated HCl. The HCl was stirred land chilled in an ice/salt bath to 0° C. Gradually, 150 g of 2,5-dimethyl-2,5-hexanediol (Aldrich) was added to the HCl. The reaction mixture was initially a milky white slurry which gradually thickened and the ice bath was removed to allow the reaction to warm to 10 C. The solids were isolated by filtration, dissolved in methylene chloride (500 mL) and washed repeatedly with water until neutral to pH paper. The organics were dried over anhydrous magnesium sulfate and left in the refrigerator overnight. The resulting mixture stripped on the rotary evaporator to yield)of white crystalline 2,5-dichloro-2,5-dimethylhexane (152 g, 94% pure by GC). 1HNMR (CDCl3, 500 MHz) δ1.95 (s, 4H); 1.60 (s, 12H).

reactant | HCl | 1.2 L | Cl | ClH
reactant | 2,5-dimethyl-2,5-hexanediol | 150 g | CC(C)(CCC(C)(O)C)O | C8H18O2
reactant | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | 2,5-Dichloro-2,5-dimethylhexane | ClC(C)(CCC(C)(C)Cl)C | C8H16Cl2
